US07691850B2
a) 1,1-dimethylethyl(3S)-3-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate
To a solution of (S)-3-(aminomethyl)-1-N-Boc-pyrrolidine (3.0 g, 14.98 mmole) in DMF (40 mL) was added triethylamine (2.5 mL, 17.94 mmole) and N-(benzyloxycarbonyloxy)succinimide (4.46 g, 17.90 mmole). After 18 hours, the reaction solution was concentrated under vacuum and redissolved in diethyl ether (250 mL). The organic solution was washed with H2O (2×150 mL), brine (100 mL) and dried over Na2SO4 and concentrated. The remaining residue was purified on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) to give the title compound (4.46 g, 91%) as a light yellow oil: LC-MS (ES) m/e 335 (M+H)+.

reactant | (S)-3-(aminomethyl)-1-N-Boc-pyrrolidine | 14.98 mmole, 3.0 g | NC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 17.94 mmole, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | N-(benzyloxycarbonyloxy)succinimide | 17.90 mmole, 4.46 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl(3S)-3-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | 4.46 g, 91% | C1(=CC=CC=C1)COC(=O)NC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C18H26N2O4
